US04665188
Ethyl 6-nitro-1,2,3,4-tetrahydro-4-oxo-2-naphthalenecarboxylate was treated according to the procedure described in step (1) of Referential Example 1 but using concentrated hydrochloric acid instead of 48% hydrobromic acid to give ethyl 6-amino-1,2,3,4-tetrahydro-2-naphthalenecarboxylate hydrochloride with m.p. 117°-130° C. (decomposition).

reactant | Ethyl 6-nitro-1,2,3,4-tetrahydro-4-oxo-2-naphthalenecarboxylate | [N+](=O)([O-])C=1C=C2C(CC(CC2=CC1)C(=O)OCC)=O | C13H13NO5
reactant | hydrochloric acid | Cl | ClH
product | ethyl 6-amino-1,2,3,4-tetrahydro-2-naphthalenecarboxylate hydrochloride | Cl.NC=1C=C2CCC(CC2=CC1)C(=O)OCC | InChI=1S/C13H17NO2.ClH/c1-2-16-13(15)11-4-3-10-8-12(14)6-5-9(10)7-11;/h5-6,8,11H,2-4,7,14H2,1H3;1H
